US07148246B2
cis-3-[2-(4-Fluorophenyl)-5-methyloxazol-4-ylmethoxy]cyclohexyl 3-cyanobenzoate
0.1 g of 3-[2-(4-fluorophenyl)-5-methyloxazol-4-ylmethoxy]cyclohexanol is dissolved in 3 ml of pyridine and, at 0° C., 0.1 g of 3-cyanobenzoyl chloride is added. The reaction mixture is then heated at 50° C. for 10 minutes. The reaction is checked (LCMS), showing the formation of the desired product in addition to unreacted alcohol cis-3-[2-(4-fluorophenyl)-5-methyloxazol-4-ylmethoxy]cyclohexanol. After addition of a further 0.9 g of 3-cyanobenzoyl chloride and 30 minutes of stirring at room temperature, the reaction is terminated by addition of 5 ml of concentrated hydrochloric acid, the mixture is extracted with ethyl acetate and the organic phase is washed with saturated sodium bicarbonate and sodium chloride solution and dried over magnesium sulfate. Purification by HPLC gives 0.1 g of the compound cis-3-[2-(4-fluorophenyl)-5-methyloxazol-4-ylmethoxy]cyclohexyl 3-cyanobenzoate as a brown solid.

reactant | 3-[2-(4-fluorophenyl)-5-methyloxazol-4-ylmethoxy]cyclohexanol | 0.1 g | FC1=CC=C(C=C1)C=1OC(=C(N1)COC1CC(CCC1)O)C | C17H20FNO3
reactant | 3-cyanobenzoyl chloride | 0.1 g | C(#N)C=1C=C(C(=O)Cl)C=CC1 | C8H4ClNO
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
product | cis-3-[2-(4-Fluorophenyl)-5-methyloxazol-4-ylmethoxy]cyclohexyl 3-cyanobenzoate | C(#N)C=1C=C(C(=O)O[C@@H]2C[C@@H](CCC2)OCC=2N=C(OC2C)C2=CC=C(C=C2)F)C=CC1 | C25H23FN2O4
